US07989454B2
4-[3-{6-[3-Bromo-5-(3,3-difluoro-pyrrolidine-1-carbonyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester
The title compound was prepared by the same method as 4-{3-[6-(3-bromo-5-dimethylcarbamoyl-phenoxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester starting from 3-bromo-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid (550 mg, 0.905 mmol), PyBroP (508 mg, 1.09 mmol), 3,3-difluoropyrrolidine hydrochloride salt (156 mg, 1.09 mmol) and DIPEA (473 uL, 2.72 mmol) in dichloromethane (15 mL) to obtain 4-[3-{6-[3-bromo-5-(3,3-difluoro-pyrrolidine-1-carbonyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (580 mg, 92%) as a colorless oil.

reactant | 4-{3-[6-(3-bromo-5-dimethylcarbamoyl-phenoxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC1=CC(=CC(=C1)C(N(C)C)=O)Br)CCC(=O)OCC)=O | C32H44BrNO7
reactant | 3-bromo-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid | 0.905 mmol, 550 mg | BrC=1C=C(C(=O)O)C=C(C1)OCCCCCCC1=C(C(=CC=C1)OCCCC(=O)OCC)CCC(=O)OCC | C30H39BrO8
reactant | PyBroP | 1.09 mmol, 508 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | 3,3-difluoropyrrolidine hydrochloride salt | 1.09 mmol, 156 mg | Cl.FC1(CNCC1)F
reactant | DIPEA | 2.72 mmol, 473 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-[3-{6-[3-bromo-5-(3,3-difluoro-pyrrolidine-1-carbonyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 580 mg, 92% | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC1=CC(=CC(=C1)C(=O)N1CC(CC1)(F)F)Br)CCC(=O)OCC)=O | C34H44BrF2NO7
